US07226920B2
(4-Methoxy-benzyl)-[4-(3-phenylamino-[1,2,4]triazol-1-yl)-pyridin-2-yl]-amine.
[1 g, 3.68 mMol] of [1-(2-Chloro-pyridin-4-yl)-1H-[1,2,4]triazol-3-yl]-phenyl-amine was dissolved in 14 mL of NMP with [2.4 mL, 2.52 g, 18.4 mMol] of p-methoxybenzylamine and heated 250 C. for 15 min (MW, 150 W). The solvent was removed in vacuo (Kugel-Rohr style) and the residue was treated with MTBE. The ether was decanted away from the dark residue and was replaced with fresh MTBE and mass broken up with vigorous stirring. The ether was again decanted away and replaced with methanol and vigorously stirred for 1 hour. The tan solid was isolated via suction filtration and washed sequentially with methanol and MTBE. The resulting powder was boiled in hot acetonitrile for several minutes, allowed to cool, isolated via suction filtration, and washed with more acetonitrile and finally MTBE. Yield: 0.5g (38.5%). 1H NMR 500 MHz (DMSO-d6) ∂ 3.7(s, 3H), 4.45(d, 2H), 6.85(m, 3H), 6.93(s, 1H), 6.98(d, 1H), 0.3(m, 5H), 7.64(d, 2H), 8.05(d, 1H), 9.1(s, 1H), 9.5(s ex, H). LC/MS [M+H+]=373.

reactant | [1-(2-Chloro-pyridin-4-yl)-1H-[1,2,4]triazol-3-yl]-phenyl-amine | 3.68 mMol, 1 g | ClC1=NC=CC(=C1)N1N=C(N=C1)NC1=CC=CC=C1 | C13H10ClN5
reactant | p-methoxybenzylamine | 18.4 mMol, 2.4 mL, 2.52 g | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | NMP | 14 mL | CN1CCCC1=O | C5H9NO
product | (4-Methoxy-benzyl)-[4-(3-phenylamino-[1,2,4]triazol-1-yl)-pyridin-2-yl]-amine | COC1=CC=C(CNC2=NC=CC(=C2)N2N=C(N=C2)NC2=CC=CC=C2)C=C1 | C21H20N6O
